US06194410B1
In an analogous manner to that described in Example 4, from 3-benzenesulphonyl-8-chloro-2-ethyl-6,7-dihydro-5H-cyclopenta[d]pyrazolo[1,5-a]pyrimidine and NH3 in MeOH there was obtained 3-benzenesulphonyl-2-ethyl-6,7-dihydro-5H-cyclopenta[d]pyrazolo[1,5-a]pyrimidin-8-ylamine as colorless crystals, m.p.>230°.

reactant | 3-benzenesulphonyl-8-chloro-2-ethyl-6,7-dihydro-5H-cyclopenta[d]pyrazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C1C(=C2Cl)CCC1)CC | C17H16ClN3O2S
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 3-benzenesulphonyl-2-ethyl-6,7-dihydro-5H-cyclopenta[d]pyrazolo[1,5-a]pyrimidin-8-ylamine | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C1C(=C2N)CCC1)CC | C17H18N4O2S
